US07259183B2
Preparation of [4-(1-methoxycyclobutyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 4-(1-methoxycyclobutyl)-benzaldehyde (76 mg, 0.40 mmol), 2-(3-trifluoromethylphenyl)-ethylamine (76 mg, 0.40 mmol) and sodium borohydride (17 mg, 0.44 mmol). The isolated residue was purified by flash column chromatography (2%-5% MeOH in EtOAc) to give the desired product (112 mg, 77%) as a colorless oil. MS (ISP) 364.3 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-(1-methoxycyclobutyl)-benzaldehyde | 0.40 mmol, 76 mg | COC1(CCC1)C1=CC=C(C=O)C=C1 | C12H14O2
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.40 mmol, 76 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 0.44 mmol, 17 mg | [BH4-].[Na+]
product | [4-(1-methoxycyclobutyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine | 112 mg, 77% | COC1(CCC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C21H24F3NO
